US07262212B2
Tert-butyl(4-benzylpiperazin-1-yl)carbamate (42.22 g, 145 mmol) prepared in Reference Example 35 was dissolved in ethanol (300 ml). To which 20% palladium hydroxide/carbon (6.0 g) was added, and the mixture was stirred at room temperature under an atmospheric pressure of hydrogen for 20 minutes, and then at 50° C. for 30 minutes. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. Thus obtained solid was washed with IPE, collected by filtration, and dried under reduced pressure to afford tert-butyl piperazin-1-yl-carbamate (28.9 g, yield 99%) as a colorless crystalline powder.

reactant | Tert-butyl(4-benzylpiperazin-1-yl)carbamate | 145 mmol, 42.22 g | C(C)(C)(C)OC(NN1CCN(CC1)CC1=CC=CC=C1)=O | C16H25N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium hydroxide/carbon | 6.0 g | [OH-].[OH-].[Pd+2]
product | tert-butyl piperazin-1-yl-carbamate | 28.9 g, yield 99% | N1(CCNCC1)NC(OC(C)(C)C)=O | C9H19N3O2
